US07368578B2
A mixture of ethyl 1-(aminocarbonothioyl)piperidine-4-carboxylate (5.85 g), 3-chloro-2-butanone (5.75 g) and 2-propanol (100 mL) was heated under reflux for 15 hrs, and concentrated. Ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried ver anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:4, v/v) to give ethyl 1-(4,5-dimethyl-1,3-thiazol-2-yl)piperidine-4-carboxylate as a colorless oil (6.86 g, yield 95%).

reactant | ethyl 1-(aminocarbonothioyl)piperidine-4-carboxylate | 5.85 g | NC(=S)N1CCC(CC1)C(=O)OCC | C9H16N2O2S
reactant | 3-chloro-2-butanone | 5.75 g | ClC(C(C)=O)C | C4H7ClO
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
product | ethyl 1-(4,5-dimethyl-1,3-thiazol-2-yl)piperidine-4-carboxylate | 6.86 g, yield 95% | CC=1N=C(SC1C)N1CCC(CC1)C(=O)OCC | C13H20N2O2S
